US06576643B2
b) 6-Methoxy-1-(2-methylphenyl)indene
According to the procedure of Preparation 10 (a), except substituting 6-methoxy-1-(2-methylphenyl)-1-indanol for the 6-methoxy-1-phenyl-1-indanol, the title compound was obtained as a colorless oil following silica gel chromatography (3% EtOAc/hexanes): MS (ES) m/e 237.2 (M+H)+.

reactant | 6-methoxy-1-(2-methylphenyl)-1-indanol | COC1=CC=C2CCC(C2=C1)(O)C1=C(C=CC=C1)C | C17H18O2
reactant | 6-methoxy-1-phenyl-1-indanol | COC1=CC=C2CCC(C2=C1)(O)C1=CC=CC=C1 | C16H16O2
product | 6-Methoxy-1-(2-methylphenyl)indene | COC1=CC=C2C=CC(C2=C1)C1=C(C=CC=C1)C | C17H16O
